Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I had an accident.  I've been really depressed."

 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
This is a ___ year old ___ woman with no reported past 
psychiatric or medical history who came to the ___ ED after a 
car accident where her car went into a building.  Psychiatry was 
consulted for safety concerns as patient is reporting feeling 
depressed and there was concern that this might have been a 
suicide attempt rather than an accident.  On interview, Ms. 
___ reported feeling very depressed since her father died 
one month ago.  She stated for about a week after his death she 
had wished that she had died with him but denied making any 
plans or attempts to harm or kill herself.  She denies SI 
currently and states though she feels depressed she has never 
thought about killing herself.  In regards to the accident 
today, she states she was driving and stopped at a light but 
somehow ended up backing up into a car behind her before going 
forward, losing control and hitting a building with her car.  
The air bags did go off but she did not sustain any serious 
injuries.  When asked
directly if this accident was intentional or an attempt on her 
life she denied it.  She reports that she is upset as her car is 
not drivable currently and her insurance is going to go up due 
to the accident and she won't be able to afford it.    
. 
Ms. ___ came to the ___ from ___ about ___ year ago 
after her husband died.  She left because her brother in law was 
going to kill her in order to obtain the land that her husband 
had left her.  All of her family, including her mother and her 
children, are in ___ and she would like to be with them but 
feels it is unsafe for her to return to the country.  She got 
certified as a
nursing assistant when she came to the ___ and has been working 
50-60 hours a week as a home ___.  She would like 
to get further qualifications as her current job does not pay 
well and has applications from the ___ cross to do so.  She is 
currently living in an apartment in ___ with 5 other
___ whom she did not know as she can't afford anything 
else. She does not feel safe in the apartment as there are 
frequent arguments and she therefore often sleeps in her car.  
. 
Patient indorsed poor sleep and consumes energy drinks to get 
through her day.  She states she enjoys work but doesn't have 
other things she finds enjoyable.  Reports a normal appetite and 
is able to concentrate at work.  Patient denies any episodes of 
hypomania/mania (decreased need for sleep, increased energy,
elevated or irritable mood, increased rate of speech, racing 
thoughts, grandiose delusions, and increase in goal-directed or 
impulsive behaviors). Patient denies auditory/visual 
hallucinations and grandiose/paranoid delusions. Patient denies 
suicidal/homicidal ideation/plans/intent.   
. 
Collateral: Per social work, patient gave number of ___, 
who is a ___, to call when asked if she wanted anyone contacted. 
Reportedly, there was a jar of urine found in her car when EMS 
was looking for her phone.  Per EMS via social work, eye 
witnesses reported no other car involved in accident and it 
appeared that the patient just drove into the building.
. 
Upon speaking to the patient again, in regards to the EMS report 
of the accident, the patient was very relieved to hear that she 
did not hit another car as she was worried that she had as the 
car had briefly gone backwards.  She did not comment on report 
of car going straight into building but was able to clarify that 
___ is a ___ friend and that he knows her current 
struggles.  She gave permission to call ___ at ___ 
however, when called it went to voicemail.  

ED Course: patient was in good behavioral control and did not 
require physical or chemical restraints. 

 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
  - Prior diagnoses: none
  - Hospitalizations: none
  - Current treaters and treatment: none
  - Medication and ECT trials: none
  - Suicide attempts: denies
  - Self-injurious behavior: denies
  - Harm to others: denies
  - Access to weapons: denies

PAST MEDICAL HISTORY:
Denies any past medical history.  

 
Social History:
___
Family History:
FAMILY PSYCHIATRIC HISTORY: States her father had dementia and 
her sister in law is mentally handicapped but did not know of 
any one with depression, bipolar, schizophrenia or other 
psychiatric illnesses
 
Physical Exam:
VS: T 98.2 BP 103/71 HR 71 RR 18 100%RA 
Neurological:  
  Station and gait: not tested
  Tone and strength: spontaneously moves all extremities
antigravity
  Cranial nerves: EOMI, no facial asymmetry, hearing intact
bilaterally
  Abnormal movements: no tics, tremor, or abnormal posturing
  Frontal release: not assessed

Cognition: 
   Wakefulness/alertness: awake and alert
   Attention: can do MOYB
   Orientation: person, time, place, situation
   Executive function (go-no go, Luria, trails, FAS): not tested
   Memory: ___ registration, ___ recall after 5 min, gets one
more with a hint and can't recall third item.  long-term grossly
intact
   Fund of knowledge: consistent with education/cultural
background; able to say past and current president of US
correctly
   Calculations: $1.75 = "6 quarters"
   Abstraction: interprets bike/car = tires 
   Visuospatial: not assessed
  Speech: normal rate, volume, rhythm, and tone
   Language: non-native ___ speaker, no paraphasic errors,
appropriate to conversation
   
  Mental Status:
   Appearance: tearful, fair grooming and hygiene, appears 
stated
age, distressed 
  Behavior: cooperative, engaged, appropriate eye contact, no
psychomotor agitation or retardation
   Mood and Affect: "depressed" / dysthymic, mood congruent
   Thought process: linear, coherent, goal-oriented, no loose
associations
   Thought Content: denies SI/HI/AH/VH, no evidence of 
delusional
content
   Judgment and Insight: fair/fair

Condition: 97.3 ___ 17 97%RA 
A/B Appears stated age, good hygiene and grooming, calm, 
cooperative with interviewer, good eye contact, no psychomotor 
agitation or retardation noted
S: normal rate, volume, prosody 
M: "good" 
A: euthymic, mood congruent, appropriate 
TC: denies SI/HI, AVH
TP: linear, goal and future oriented
C: awake, alert and oriented x3 
I/J: fair/fair  

 
Pertinent Results:
___ 09:30PM URINE  HOURS-RANDOM
___ 09:30PM URINE  UCG-NEGATIVE
___ 09:30PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 09:30PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 09:30PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 01:08PM   PH-7.48* COMMENTS-GREEN TOP
___ 01:08PM   GLUCOSE-94 LACTATE-1.4 NA+-138 K+-4.4 CL--107
___ 01:08PM   HGB-9.6* calcHCT-29 O2 SAT-95 CARBOXYHB-3 MET 
HGB-0
___ 01:08PM   freeCa-1.00*
___ 01:00PM   GLUCOSE-97 UREA N-7 CREAT-0.7 SODIUM-135 
POTASSIUM-5.5* CHLORIDE-104 TOTAL CO2-21* ANION GAP-16
___ 01:00PM   estGFR-Using this
___ 01:00PM   ALT(SGPT)-10 AST(SGOT)-37 ALK PHOS-63 TOT 
BILI-0.4
___ 01:00PM   LIPASE-41
___ 01:00PM   ALBUMIN-4.2
___ 01:00PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 01:00PM   WBC-4.7 RBC-3.65* HGB-8.8* HCT-30.2* MCV-83 
MCH-24.1* MCHC-29.1* RDW-15.5 RDWSD-47.0*
___ 01:00PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 01:00PM   NEUTS-36.7 ___ MONOS-10.5 EOS-0.9* 
BASOS-0.6 IM ___ AbsNeut-1.71 AbsLymp-2.38 AbsMono-0.49 
AbsEos-0.04 AbsBaso-0.03
___ 01:00PM   ___ PTT-25.3 ___
___ 01:00PM   ___
 
Brief Hospital Course:
This is a ___ year old ___ woman with no reported past 
psychiatric or medical history who came to the ___ ED after a 
car accident where her car went into a building.  Psychiatry was 
initially consulted in the ED for safety concerns as patient is 
reporting feeling depressed and there was concern that this 
might have been a suicide attempt rather than an accident. On 
interview, patient denies that this was a suicide attempt, 
however does report worsening depression since the death of her 
father 1 month ago. She reports multiple other social stressors, 
such as her entire family still being in ___, having no 
social supports in the ___, and significant financial stressors.  


Upon interview, patient reports low mood with difficulty 
sleeping, feelings of hopelessness,  mild anxiety and changes in 
appetite and mental status examination is notable for dysthymic 
affect that is congruent with reported depressed mood. 
Diagnostically, she does meet criteria for major depressive 
disorder, moderate to severe, without psychotic features. 
However, patient was also noted to be anemic on
laboratory examination with low iron and ferritin, consistent 
with iron deficiency anemia, which may be contributing to her 
fatigue and symptoms. Of note, nothing in her history to suggest 
a prior episode of mania or psychosis concerning for bipolar or 
a primary psychotic disorder. Patient denies prior history of 
substance use and 
tox screen was negative-- substance use is not likely to be 
contributing to her clinical presentation. 

#. Legal/Safety: Upon admission, patient signed a CV, which was 
accepted. Of note, she maintained her safety throughout her 
psychiatric hospitalization on 15 minute checks and did not 
require physical or chemical restraints. 

#. MDD: single episode, moderate to severe, without psychotic 
features 
- Patient maintained excellent behavioral during her 
hospitalization although she declined groups. She was compliant 
in meeting with her treatment team and participated 
appropriately in her care 
- Patient had limited contacts, but with her permission, we did 
contact ___, an acquaintance, who has known her for the past 
7 months. ___ confirmed the patient has been recently 
stressed but denied the patient had made any mention/threats of 
suicide prior to her hospitalization. 
- After discussion of the risks and benefits, we initiated 
Celexa 10 mg po qd to address depressive symptoms. She tolerated 
this medication well with no complaints of side effects. 
- Of note, during her hospitalization, patient consistently 
denied her car accident was a suicide attempt and consistently 
denied suicidal ideation or thoughts of self harm. She expressed 
a strong desire to be discharged and agreed to follow up with 
outpatient providers upon discharge for further support. 
Additionally, patient stated she found her religion and ___ 
community a strong source of support. Given her improvement in 
symptoms (less tearful, reported improved mood), consistent 
denial of suicidal ideation or thoughts of self harm, thought 
process that was notably linear, goal and future oriented with 
willingness to participate in outpatient treatment, I felt the 
risks of ongoing inpatient hospitalization against her will with 
mounting financial concerns, poor experience with forced 
hospitalization outweighed the benefits of ongoing 
hospitalization.  

#. Anemia: with Hgb= 8.4, Hct= 27.8, MCV= 81 and ferritin= 7.6 
- Consistent with microcytic anemia 
- Patient was placed on Ferrous Sulfate 325 mg po qd and will be 
referred to outpatient PCP for further evaluation and management 


#. Low vitamin D: 
- Vit D= 22 
- Patient placed on vitamin D supplement, will follow up with 
her PCP 

 
___ on ___:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Citalopram 10 mg PO DAILY 
RX *citalopram [Celexa] 10 mg 1 tablet(s) by mouth daily Disp 
#*15 Tablet Refills:*0 
2.  Ferrous Sulfate 325 mg PO DAILY 
do not take with food  
RX *ferrous sulfate [Feosol] 325 mg (65 mg iron) 1 tablet(s) by 
mouth daily Disp #*30 Tablet Refills:*0 
3.  Vitamin D 800 UNIT PO DAILY 
RX *ergocalciferol (vitamin D2) 400 unit 2 tablet(s) by mouth 
daily Disp #*60 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major depressive disorder, without psychotic features 

 
Discharge Condition:
97.3   ___   17    97%RA 
A/B Appears stated age, good hygiene and grooming, calm, 
cooperative with interviewer, good eye contact, no psychomotor 
agitation or retardation noted
S: normal rate, volume, prosody 
M: 'good' 
A: euthymic, mood congruent, appropriate 
TC: denies SI/HI, AVH
TP: linear, goal and future oriented
C: awake, alert and oriented x3 
I/J: fair/fair 

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___